US07897607B2
2-Amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (847 mg, 3.00 mmol) and N,N-dimethylformamide (30 ml) was added sodium hydride (60% in oil, 120 mg, 3.00 mmol) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 0.5 hour, to the mixture was added a solution of MeI (426 mg, 3.0 mmol) and N,N-dimethylformamide (5 ml) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 1 hour, the mixture was diluted with water (20 ml) and extracted with ethyl acetate (50 ml×3). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (3:1) to give 553 mg (62%) of the title compound.

reactant | 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 3.00 mmol, 847 mg | NC=1NC(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O | C16H18N4O
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.00 mmol, 120 mg | [H-].[Na+]
reactant | MeI | 3.0 mmol, 426 mg | CI | CH3I
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-Amino-5-mesityl-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 553 mg, 62% | NC=1N(C(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O)C | C17H20N4O
